US05190934
A tetrahydrofuran solution of 19.3 g of cyclohexylmethylphosphonous acid is cooled to 5°, at which temperature a suspension forms, and treated with 12.14 g of triethylamine. An exothermia ensues and the suspension is re-cooled to 5° before slow addition of 13.02 g ethyl chloroformate in 20 ml of anhydrous tetrahydrofuran. An exothermic reaction occurs with gas evolution. The white suspension is stirred overnight at room temperature and subsequently filtered. The filtrate is concentrated under reduced pressure and the residue partitioned between dichloromethane and water. The organic phase is removed, dried and concentrated in vacuo to give a yellow oil. Distillation in high vacuum affords ethyl (cyclohexylmethyl)phosphinate; b.p. 120°-130° (2×10-2 mbar); 1H-NMR (CDCl3): δ (ppm)=7.17 (1H, d, J=527 Hz, P--H), 4.13 (2H, m, CH2OP), 1.95-1.58 (7H, m, 3×CH2 +CH), 1.38-0.75 (9H, m, 3×CH2 +CH3).

reactant | cyclohexylmethylphosphonous acid | 19.3 g | C1(CCCCC1)CP(O)O | C7H15O2P
reactant | triethylamine | 12.14 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 13.02 g | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl (cyclohexylmethyl)phosphinate | C1(CCCCC1)CP(OCC)=O | C9H19O2P
